US06281363B1
A solution of 1.9 g of 2(R)-[2-benzamido-1(R)-(tert-butoxycarbonyl)ethyl]-4-methylvaleric acid in 3 ml of dry dimethylformamide was cooled to 0° C. under a nitrogen atmosphere and treated with 2.61 g of benzyl carbazate and 1.20 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. The mixture was allowed to warm to room temperature and then stirred overnight. The mixture was diluted with ethyl acetate and washed in sequence with water, 2M aqueous hydrogen chloride, water, 5% aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride. Drying over anhydrous magnesium sulphate and evaporation gave 2.68 g of 2(R)-[2-benzamido-1(R)-(tert-butoxycarbonyl)ethyl]-2′-benzyloxycarbonyl-4-methylvalerohydrazide in the form of a white foam.

reactant | 2(R)-[2-benzamido-1(R)-(tert-butoxycarbonyl)ethyl]-4-methylvaleric acid | 1.9 g | C(C1=CC=CC=C1)(=O)NC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)O)CC(C)C | C20H29NO5
reactant | benzyl carbazate | 2.61 g | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.20 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(R)-[2-benzamido-1(R)-(tert-butoxycarbonyl)ethyl]-2′-benzyloxycarbonyl-4-methylvalerohydrazide | 2.68 g | C(C1=CC=CC=C1)(=O)NC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NNC(=O)OCC1=CC=CC=C1)CC(C)C | C28H37N3O6
